US08202899B2
Step D: 1-(3-tert-butyl-1-(4-cyanophenyl)-1H-pyrazol-5-yl)-3-((5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)phenyl)methyl)urea hydrochloride:
1-(3-tert-Butyl-1-(4-cyanophenyl)-1H-pyrazol-5-yl)-3-((5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazole-5-yloxy)phenyl)methyl)urea (0.070 g, 0.12 mmol) was added to MTBE and stirred. Saturated HCl in diethyl ether was added until a precipitate dropped out. The precipitate was collected by filtration and dried to provide 61 mg (83%) of the desired compound.

reactant | 1-(3-tert-Butyl-1-(4-cyanophenyl)-1H-pyrazol-5-yl)-3-((5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazole-5-yloxy)phenyl)methyl)urea | 0.12 mmol, 0.070 g | C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C#N | C31H30FN7O3
reactant | MTBE | CC(C)(C)OC | C5H12O
reactant | HCl | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(3-tert-butyl-1-(4-cyanophenyl)-1H-pyrazol-5-yl)-3-((5-fluoro-2-(1-(2-hydroxyethyl)-1H-indazol-5-yloxy)phenyl)methyl)urea hydrochloride | 61 mg, 83% | Cl.C(C)(C)(C)C1=NN(C(=C1)NC(=O)NCC1=C(C=CC(=C1)F)OC=1C=C2C=NN(C2=CC1)CCO)C1=CC=C(C=C1)C#N | InChI=1S/C31H30FN7O3.ClH/c1-31(2,3)28-16-29(39(37-28)24-7-4-20(17-33)5-8-24)36-30(41)34-18-22-14-23(32)6-11-27(22)42-25-9-10-26-21(15-25)19-35-38(26)12-13-40;/h4-11,14-16,19,40H,12-13,18H2,1-3H3,(H2,34,36,41);1H
